US06147088
Step 9C 7-chloro-3-(3,5-dimethylphenyl)-4-[2-(1-methylpiperidin-2-yl)-ethoxy]-6-nitro-1H-quinolin-2-one
A mixture of 7-chloro-3-(3,5-dimethylphenyl)-4-hydroxy-6-nitro-1H-quinolin-2-one (100 mg) and sodium bicarbonate (54 mg) was suspended in 2 mL dry N,N-dimethylformamide and heated to 80° C. on an oil bath. After 30 minutes, sodium iodide (48 mg) was added followed by 2-(2-chloroethyl)-1-methylpiperidine hydrochloride (64 mg) and the mixture stirred at 80° C. for 7 hours. At this time the reaction was cooled to room temperature and quenched by the addition of 25 mL ice/water. The mixture was filtered and the residue washed (1×) with ice water then dried at 40° C. Purification of the crude product by flash chromatography on silica gel (chloroform:10% ammonium hydroxide in methanol, 95:5) gave the title compound (67 mg).

reactant | 7-chloro-3-(3,5-dimethylphenyl)-4-hydroxy-6-nitro-1H-quinolin-2-one | 100 mg | ClC1=C(C=C2C(=C(C(NC2=C1)=O)C1=CC(=CC(=C1)C)C)O)[N+](=O)[O-] | C17H13ClN2O4
reactant | sodium bicarbonate | 54 mg | C([O-])(O)=O.[Na+]
reactant | sodium iodide | 48 mg | [I-].[Na+]
reactant | 2-(2-chloroethyl)-1-methylpiperidine hydrochloride | 64 mg | Cl.ClCCC1N(CCCC1)C
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 7-chloro-3-(3,5-dimethylphenyl)-4-[2-(1-methylpiperidin-2-yl)-ethoxy]-6-nitro-1H-quinolin-2-one | 67 mg | ClC1=C(C=C2C(=C(C(NC2=C1)=O)C1=CC(=CC(=C1)C)C)OCCC1N(CCCC1)C)[N+](=O)[O-] | C25H28ClN3O4
